US07528143B2
5-Methyl-N2-[4-(4-methyl-piperazin-1-yl)-phenyl]-pyrimidine-2,4-diamine (Intermediate 32)
A mixture of 2-chloro-5-methyl-pyrimidin-4-ylamine (1.0 g, 6.9 mmol) and 4-(4-methyl-piperazin-1-yl)-phenylamine (1.5 mL, 7.8 mmol) in acetic acid (15 mL) was heated at 100° C. for 2.5 h. The mixture was allowed to cool to room temperature and acetic acid removed under reduced pressure. The residue was taken in water (20 mL) and the mixture was neutralized with 10% NaOH solution until solid precipitated. After filtration and washed with water, the title compound was obtained as a grey solid (1.3 g, 63%).

reactant | 2-chloro-5-methyl-pyrimidin-4-ylamine | 6.9 mmol, 1.0 g | ClC1=NC=C(C(=N1)N)C | C5H6ClN3
reactant | 4-(4-methyl-piperazin-1-yl)-phenylamine | 7.8 mmol, 1.5 mL | CN1CCN(CC1)C1=CC=C(C=C1)N | C11H17N3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 5-Methyl-N2-[4-(4-methyl-piperazin-1-yl)-phenyl]-pyrimidine-2,4-diamine | CC=1C(=NC(=NC1)NC1=CC=C(C=C1)N1CCN(CC1)C)N | C16H22N6
